US04065570
5-(3'-Methoxy-4'-Hydroxybenzal) hydantoin
Vanillin (3.04 g.) and hydantoin (2.0 g.) in water (20 ml) were heated on the steam-bath for a few minutes until dissolution occurred. Ethanolamine (0174 g.) was then added and the solution heated at 85°-90° (bath temperature) for 4.5 hours. The solution deposited crystals and solidified within 0.5 hours. Concentrated HCl (5 ml) was added, the mixture was refrigerated overnight (18 hours), filtered, water washed and dried. The title compound was obtained as a yellow solid (4.18 g; 93%), m.p. 266°-271° decomp.

reactant | Vanillin | 3.04 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | hydantoin | 2.0 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | Ethanolamine | C(O)CN | C2H7NO
reactant | HCl | 5 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 5-(3'-Methoxy-4'-Hydroxybenzal) hydantoin | COC=1C=C(C=C2C(NC(N2)=O)=O)C=CC1O | C11H10N2O4
